US09447090B2
To a solution of 1 g of methyl 3-oxoindane-1-carboxylate in 10 ml of toluene were added 0.78 ml of (1S)-1-(4-methoxyphenyl)ethanamine and 100 mg of p-toluenesulfonic acid monohydrate, followed by heating to reflux for 5 hours using a Dean-Stark type reflux device. Then, 634 mg of magnesium sulfate was added thereto, followed by heating to reflux for 5 hours using a Dean-Stark type reflux device. Further, 634 mg of magnesium sulfate was added thereto, followed by heating to reflux for 5 hours using a Dean-Stark type reflux device. The insoluble material was removed by filtration and the solvent was then evaporated under reduced pressure to obtain an intermediate product. To a solution of the obtained intermediate product in 17 ml of ethanol was added 209 mg of sodium borohydride under ice-cooling, followed by stirring for 1 hour under ice-cooling. The solvent was evaporated under reduced pressure, and to the obtained residue were added water, a saturated aqueous sodium hydrogen carbonate solution, and ethyl acetate to carry out a layer separation operation. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 1.195 g of methyl (3S)-3-{[(1S)-1-(4-methoxyphenyl)ethyl]amino}indane-1-carboxylate.

reactant | methyl 3-oxoindane-1-carboxylate | 1 g | O=C1CC(C2=CC=CC=C12)C(=O)OC | C11H10O3
reactant | (1S)-1-(4-methoxyphenyl)ethanamine | 0.78 ml | COC1=CC=C(C=C1)[C@H](C)N | C9H13NO
reactant | p-toluenesulfonic acid monohydrate | 100 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | magnesium sulfate | 634 mg | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | magnesium sulfate | 634 mg | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sodium borohydride | 209 mg | [BH4-].[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 17 ml | C(C)O | C2H6O
product | methyl (3S)-3-{[(1S)-1-(4-methoxyphenyl)ethyl]amino}indane-1-carboxylate | 1.195 g | COC1=CC=C(C=C1)[C@H](C)N[C@H]1CC(C2=CC=CC=C12)C(=O)OC | C20H23NO3
